US06982259B2
(3R)-3-[4-(Imidazol-1-yl)phenoxy]piperidine (150 mg, 0.61 mmol) was dissolved in DMF (2 mL) and was added to a solution of 5-chloromethyl-1,3-benzodioxole (0.16 ml in 50% methylene chloride, 1.0 eq.) in DMF, followed by the addition of K2CO3 (2.5 eq.) and Nal (0.1 eq.). The resulting mixture was heated at 50° C. for 1 hour. The solvent was evaporated and flash column chromatography on silical gel with 3% methanol in methylene chloride gave a crude product (112 mg). Additional flash chromatography with 3% methanol in ethyl acetate afforded (3R)-3-[4-(imidazol-1-yl)phenoxy]-1-[(1,3-benzodioxol-5-yl)methyl]piperidine (70 mg), 1H NMR (CDCl3) 7.75 (s, 1), 7.30 (d, 2), 7.20 (d, 2), 7.00 (d, 2), 6.85 (s, 1), 6.75 (d, 2), 5.90 (s, 2), 4.40 (m, 1), 3.50 (s, 2), 3.00 (m, 1), 2.70 (m, 1), 2.20 (m, 3), 1.85 (m, 1), 1.50 (m, 2) ppm.

reactant | (3R)-3-[4-(Imidazol-1-yl)phenoxy]piperidine | 0.61 mmol, 150 mg | N1(C=NC=C1)C1=CC=C(O[C@H]2CNCCC2)C=C1 | C14H17N3O
reactant | 5-chloromethyl-1,3-benzodioxole | 0.16 ml, 1.0 eq. | ClCC1=CC2=C(OCO2)C=C1 | C8H7ClO2
reactant | K2CO3 | 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | Nal | 0.1 eq. | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | (3R)-3-[4-(imidazol-1-yl)phenoxy]-1-[(1,3-benzodioxol-5-yl)methyl]piperidine | 70 mg | N1(C=NC=C1)C1=CC=C(O[C@H]2CN(CCC2)CC2=CC3=C(OCO3)C=C2)C=C1 | C22H23N3O3
